US09382241B2
Step 5: 4-amino-6-(3-fluorophenyl)quinazoline-8-carbonitrile 53
To an 8 mL vial was added 4-amino-6-chloro-quinazoline-8-carbonitrile (100 mg, 0.49 mmol) followed by (3-fluorophenyl)boronic acid (2 equiv., 1.0 mmol, 0.13676 g), potassium phosphate tribasic (2M in water, 4 equiv., 2.0 mmol, 1 mL), Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.05 equiv., 0.024 mmol, 17 mg) and dioxane (2 mL). The reaction was capped and shaken at 100° C. for 2 h. The reaction was cooled to room temperature, then diluted with 4 mL ethyl acetate and 3 mL water. The resulting precipitate was collected by filtration, yielding 72 mg of desired product. 1H NMR (400 MHz, DMSO) δ 8.94-8.89 (d, J=1.5 Hz, 1H), 8.77-8.72 (d, J=1.4 Hz, 1H), 8.55-8.50 (s, 1H), 8.43-8.13 (s, 2H), 7.83-7.74 (t, J=8.5 Hz, 2H), 7.63-7.55 (dd, J=14.5, 8.0 Hz, 1H), 7.33-7.25 (dd, J=12.5, 4.5 Hz, 1H). LCMS M/Z (M+H)=265.

reactant | 4-amino-6-chloro-quinazoline-8-carbonitrile | 0.49 mmol, 100 mg | NC1=NC=NC2=C(C=C(C=C12)Cl)C#N | C9H5ClN4
reactant | (3-fluorophenyl)boronic acid | 1.0 mmol, 0.13676 g, 2 equiv. | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium phosphate tribasic | 2.0 mmol, 2M, 1 mL, 4 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.024 mmol, 17 mg, 0.05 equiv. | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 4-amino-6-(3-fluorophenyl)quinazoline-8-carbonitrile | 72 mg | NC1=NC=NC2=C(C=C(C=C12)C1=CC(=CC=C1)F)C#N | C15H9FN4
